US07932272B2
3-Dichloromethyl-2-nitro-thiophene
To a solution of potassium tert-butoxide (23.0 mL, 1.0M tetrahydrofuran solution, 23.2 mmol) in N,N-dimethyl formamide (20 mL) were added a mixture solution of 2-nitro-thiophene (1.00 g, 7.74 mmol) in chloroform (682 μl, 8.51 mmol) and N,N-dimethylformamide (2 mL) dropwise at −78° C., the solution was stirred for 5 minutes, and then, methanol and acetic acid were added at 0° C. Brine was added to the reaction solution, which was then extracted with ethyl acetate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1), and the title compound (1.54 g, 7.26 mmol, 94%) was obtained as a light brown solid.

reactant | potassium tert-butoxide | 23.2 mmol, 1.0M, 23.0 mL | CC(C)([O-])C.[K+]
reactant | 2-nitro-thiophene | 7.74 mmol, 1.00 g | [N+](=O)([O-])C=1SC=CC1 | C4H3NO2S
reactant | chloroform | 8.51 mmol, 682 μl | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | N,N-dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | Brine | [Cl-].[Na+].O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Dichloromethyl-2-nitro-thiophene | 7.26 mmol, 1.54 g, 94% | ClC(C1=C(SC=C1)[N+](=O)[O-])Cl | C5H3Cl2NO2S
